US06949579B2
4-iodo-1H-indazole-3-amine
1.2 cm3 of hydrazine monohydrate are added to 2 g of 2-fluoro-6-iodobenzonitrile in 25 cm3 of ethanol. The reaction medium is then refluxed at about 78° C. for 12 hours. The medium is allowed to return to about 20° C. and 20 cm 3 of distilled water are then added in order to precipitate the product. The insoluble material is filtered on a sinter funnel, rinsed with 20 cm3 of distilled water and then taken up in 20 cm3 of dichloromethane. The organic phase is then dried over magnesium sulphate and evaporated under reduced pressure (2 kPa; 45° C.). After drying (90 Pa; 50° C.), 1.65 g of 4-iodo-1H-indazole-3-amine are obtained in the form of a yellow solid melting at 157° C.

reactant | hydrazine monohydrate | 1.2 cm3 | O.NN
reactant | 2-fluoro-6-iodobenzonitrile | 2 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | water | O | H2O
solvent | ethanol | 25 cm3 | C(C)O | C2H6O
product | 4-iodo-1H-indazole-3-amine | IC1=C2C(=NNC2=CC=C1)N | C7H6IN3
